US07429667B2
5-[4-(2,5-Dichloro-phenoxy)-3-fluoro-phenylamino]-3-hydroxy-N-isopropyl-isothiazole-4-carboxamidine
A mixture of 5-[4-(2,5-dichloro-phenoxy)-3-fluoro-phenylamino]-3-hydroxy-isothiazole-4-carbonitrile (0.2 g) and isopropylamine (5 ml) in 20 ml of ethanol was placed into a high-pressure reaction apparatus and heated to 100° C. overnight. The reaction mixture was cooled to room temperature, and the solvent was removed in vacuo. The residue was chromatographed by silica gel column (chloroform/methanol, 40:1) to give the desired product as a light yellow solid. MS: 454; 1H NMR (DMSO-d6, 300 MHz): δ 10.28 (brs, 1/2H, NH, D2O exchangeable), 9.62 (brs, 1H, NH, D2O exchangeable), 9.31 (brs, 1/2H, NH, D2O exchangeable), 8.57 (s, 1H, OH, D2O exchangeable), 7.88 (brs, 1H, NH, D2O exchangeable), 7.61 (d, 1H, J=8.7 Hz, ArH), 7.22 (dd, 1H, J=2.1, 8.7 Hz, ArH), 7.16 (t, 1H, J=8.7 Hz, ArH), 6.99 (dd, 1H, J=2.1, 12.6 Hz, ArH), 6.88 (d, 1H, J=2.1 Hz, ArH), 6.83 (dd, 1H, J=2.1, 8.7 Hz, ArH), 3.85 (m, 1H, CH), 1.20 (d, 6H, J=6.3 Hz, 2×CH3).

reactant | 5-[4-(2,5-dichloro-phenoxy)-3-fluoro-phenylamino]-3-hydroxy-isothiazole-4-carbonitrile | 0.2 g | ClC1=C(OC2=C(C=C(C=C2)NC2=C(C(=NS2)O)C#N)F)C=C(C=C1)Cl | C16H8Cl2FN3O2S
reactant | isopropylamine | 5 ml | C(C)(C)N | C3H9N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-[4-(2,5-Dichloro-phenoxy)-3-fluoro-phenylamino]-3-hydroxy-N-isopropyl-isothiazole-4-carboxamidine | ClC1=C(OC2=C(C=C(C=C2)NC2=C(C(=NS2)O)C(=N)NC(C)C)F)C=C(C=C1)Cl | C19H17Cl2FN4O2S
